US07718611B2
Methyl (Z)-2-[(tert-butoxycarbonyl)amino]-4,4-dimethylpent-2-enoate
Pivalaldehyde (303.2 g, 3.41 mol, 10 equivalents) and methyl {[tert-butoxycarbonyl]amino}-(dimethoxyphosphoryl)acetate (101.5 g, 0.341 mol, 1.0 equivalent) are dissolved in tetrahydrofuran (800 ml) and cooled to −70° C. At −70° C., N,N,N,N-tetramethylguanidine (78.7 g, 0.683 mmol, 6.95 ml, 2.0 equivalents) is slowly added dropwise and the mixture is then stirred at −70° C. for 4 h, subsequently, the mixture is stirred at RT for 4 days. The reaction mixture is concentrated, then extracted with ethyl acetate (2×500 ml) against water, and the combined organic phases are washed with a saturated sodium chloride solution (100 ml) and dried over sodium sulfate. After concentration, the crude product is chromatographed (1.5 kg of silica gel, eluent: cyclohexane/ethyl acetate 5:1). 67 g (76% of theory) of the title compound are obtained.

reactant | Pivalaldehyde | 3.41 mol, 303.2 g, 10 equivalents | C(C(C)(C)C)=O | C5H10O
reactant | methyl {[tert-butoxycarbonyl]amino}-(dimethoxyphosphoryl)acetate | 0.341 mol, 101.5 g, 1.0 equivalent | C(C)(C)(C)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C10H20NO7P
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | Methyl (Z)-2-[(tert-butoxycarbonyl)amino]-4,4-dimethylpent-2-enoate | C(C)(C)(C)OC(=O)N\C(\C(=O)OC)=C/C(C)(C)C | C13H23NO4
